US07285558B2
(a) methyl 3-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}benzoate
This compound was synthesized by the reaction of 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione and methyl 3-(bromomethyl)benzoate using potassium carbonate as a base in DMF at 80° C.

reactant | 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | CN1C(NC=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)=O | C22H17N5O2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}benzoate | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)CC=2C=C(C(=O)OC)C=CC2)=O | C31H25N5O4
